US06479536B1
4-Methoxy-N-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]benzamide
By using 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine and 4-methoxybenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 86%. Melting point: 161-163° C. (Ethyl acetate-hexane)

reactant | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Methoxy-N-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]benzamide | Yield: 86% | COC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C)C2C)C)C)C=C1 | C28H31NO3
